US05240938
Step A: Preparation of methyl 2-(2-(1-methylcyclohex-1-yl)-4-methylphenoxy)-2-phenylacetate
Using the K2CO3 /acetone conditions for phenol alkylation described in Step A of Example 30, 0.496 g (2.43 mmol) of 2-(1-methylcyclohex-1-yl)-4-methylphenol was alkylated with 0.834 g (3.64 mmol) of methyl 2-bromophenylacetate to afford 0.780 g (91%) of the title compound.

reactant | K2CO3 acetone | C(=O)([O-])[O-].[K+].[K+].CC(=O)C
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | 2-(1-methylcyclohex-1-yl)-4-methylphenol | 2.43 mmol, 0.496 g | CC1(CCCCC1)C1=C(C=CC(=C1)C)O | C14H20O
reactant | methyl 2-bromophenylacetate | 3.64 mmol, 0.834 g | BrC1=C(C=CC=C1)CC(=O)OC | C9H9BrO2
product | methyl 2-(2-(1-methylcyclohex-1-yl)-4-methylphenoxy)-2-phenylacetate | 0.780 g, 91% | CC1(CCCCC1)C1=C(OC(C(=O)OC)C2=CC=CC=C2)C=CC(=C1)C | C23H28O3
